Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fall, SAH
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with hx of COPD, Alzhemer dementia, atrial fib not on 
coumadin, recent recent M2 stroke (___), severe AS presented to 
___ from ___ for unwitnessed fall and traumatic SAH. 
History is difficult to gather secondary to dementia, 
enecephalopathy. Per granddaughter, patient was generally 
functional even 1 month ago (driving) before having a stroke on 
___ presenting with left sided weakness. Stroke was thought to 
be embolic from afib not on AC. Pt has had 3 falls at rehab, 
including this one which was unwitnessed. Per patient, she was 
walking to bathroom when fell backwards. Denies LOC, denies 
chest pain, fever, shortness of breath, and palpitations. Per 
granddaughter, patient is known to sundown after lunch. 

In the ED, initial vitals:  97.8 102 106/53 18 95% RA 
- Labs notable for: Cr 1.3->1.1, trop <0.01
- Imaging notable for:
Unremarkable CT spine and CT Abd/Pelvis at OSH
CXR: No acute cardiopulmonary abnormality.
CT head: 
 1. Mild persistent soft tissue swelling identified in the right 
parietal  convexity. 
 2. Stable small subarachnoid hemorrhage within right posterior 
parietal lobe,  probably posttraumatic in nature. 
 3. There is no evidence of new intracranial hemorrhage. 
 4. Expected layering of small left intraventricular hemorrhage. 

 5. Chronic changes 

- Pt given: 
___ 09:34 IV CeftriaXONE 1 g 
___ 20:03 PO/NG Atorvastatin 40 mg  
___ 22:02 PO OLANZapine (Disintegrating Tablet) 5 mg 
___ 01:18 PO OLANZapine (Disintegrating Tablet) 5 mg 
___ 11:30 IV CeftriaXONE 1 gm ___ Stopped  
___ 11:30 IVF  NS  125 mL/hr 

- Vitals prior to transfer:  98.9 89 94/65 16 94% RA 
NSG consulted: 
 - Hold aspirin 325mg x 1 week
 - SBP < 160
 - No keppra
 - No neurosurgery follow-up indicated
 - ___ follow up in ___ clinic if necessary

On arrival to the floor, pt attempts to recount above story but 
is at times distracted. Her long term memory seems much more 
intact than short term. 

 
Past Medical History:
COPD, Alzhemer dementia, atrial fib not on coumadin, recent 
recent M2 stroke (___), Aortic Stenosis
 
Social History:
___
Family History:
not reliably obtained, per ___ notes, noncontributory 
 
Physical Exam:
ADMISSION
Vitals:  98.1 PO 110 / 70 96 20 92 Ra 
General: Alert, oriented to self only, no acute distress, 
pleasant
HEENT: Sclerae anicteric, dry MM, oropharynx with only top row 
of dentures
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, poor air movement
CV: ___  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN2-12 intact, strength intact ___ UEs/LEs, FTN intact

DISCHARGE
Vitals:  97.7PO 148 / 95 83 16 95 RA 
General: Alert, oriented to self only, no acute distress, 
pleasant
HEENT: Sclerae anicteric, MMM, oropharynx with only top row of 
dentures
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, poor air movement
CV: ___  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN2-12 intact, strength intact ___ UEs/LEs, FTN intact
 
Pertinent Results:
ADMISSION
___ 05:23AM BLOOD WBC-8.3 RBC-4.22 Hgb-13.0 Hct-39.9 MCV-95 
MCH-30.8 MCHC-32.6 RDW-12.4 RDWSD-42.9 Plt ___
___ 05:23AM BLOOD Neuts-78.9* Lymphs-12.0* Monos-6.5 
Eos-1.7 Baso-0.4 Im ___ AbsNeut-6.58* AbsLymp-1.00* 
AbsMono-0.54 AbsEos-0.14 AbsBaso-0.03
___ 05:23AM BLOOD ___ PTT-25.6 ___
___ 05:23AM BLOOD Glucose-118* UreaN-24* Creat-1.3* Na-138 
K-4.4 Cl-99 HCO3-27 AnGap-16
___ 05:23AM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.3

DISCHARGE
___ 05:50AM BLOOD WBC-5.3 RBC-3.74* Hgb-11.6 Hct-35.8 
MCV-96 MCH-31.0 MCHC-32.4 RDW-12.4 RDWSD-43.2 Plt ___
___ 05:50AM BLOOD Glucose-105* UreaN-24* Creat-1.2* Na-140 
K-3.6 Cl-100 HCO3-29 AnGap-15

CXR ___
No acute cardiopulmonary abnormality. 
Although no acute fracture or other chest wall lesion is seen, 
conventional chest radiographs are not sufficient for detection 
or characterization of most such abnormalities. If the 
demonstration of trauma to the chest wall is clinically 
warranted,  the location of any referrable focal findings  
should be clearly marked and imaged with either bone detail 
radiographs or Chest CT scanning. 

CT Head ___.  Mild persistent soft tissue swelling identified in the right 
parietal 
convexity. 
2.  Stable small subarachnoid hemorrhage within right posterior 
parietal lobe, 
probably posttraumatic in nature. 
3.  There is no evidence of new intracranial hemorrhage. 
4.  Expected layering of small left intraventricular hemorrhage. 

5.  Chronic changes as above. 

Previous imaging in ___ records reviewed

 
Brief Hospital Course:
___ with hx of COPD, Alzhemer dementia, atrial fib not on 
coumadin, recent recent M2 stroke (___), severe AS presented to 
___ from SNF for unwitnessed fall and traumatic SAH. 
Neurosurgery recommended holding aspirin for 7 days. Patient was 
admitted in setting of altered mental status. She was started on 
standing 7PM olanzapine to normalize sleep-wake schedule and 
prevent delirium. 

#Toxic-Metabolic Encephalopathy
#Alzheimer's Dementia
#Recent CVA
#Concussion
#___
Patient with multiple causes for altered mental status. Her CT 
scan and exam are reassuring that this was not a new CVA. I 
suspect the combination of recent stroke in setting of 
___'s dementia had already set her mental status back. Now 
with addition of head trauma and SAH, she became more 
confused/lethargic. She became more alert throughout her 
hospital course although was oriented only to self and had poor 
safety awareness. Her aspirin should be restarted ___. Her 
donepezil was held to avoid any anticholinergic side effects. 
Atorvastatin was continued. Olanzapine 2.5mg was started q7PM, 
but should be attempted to be weaned off as mental status 
improves. On day of discharge, pt had no complaints. 

# Fall, ?syncope
Patient with unwitnessed fall(s) at rehab. She denied LOC and 
any alarm symptoms, including no chest pain, palpitations, or 
shortness of breath. Fall is likely due to recovery from stroke 
and poor self/safety awareness. Troponin negative. CXR without 
infection. Recent TTE with AS. Consider further cardiology 
follow up, if intervention would be within patient and family 
goals. Patient is asymptomatic. 

# UTI: She was treated with ceftriaxone 1g q24h x5 days

#COPD: continued home inhalers, used formulary substitute for 
symbicort

#HTN: Held lisinopril in setting of normotension

#CODE: DNR/DNI per her granddaughter (HCP); ___ discussed over 
phone and confirmed DNR/DNI by ___, witnessed by Drs. 
___. 
#COMMUNICATION: granddaughter ___ ___ 

TRANSITIONAL ISSUES
===================
- Consider stopping olanzapine q7PM as mental status improves
- Restart aspirin ___
- Donepezil held I/s/o delirium; consider restarting if 
improving
- Restart Lisinopril 10mg if she becomes persistently 
hypertensive
- Encourage normal sleep/wake cycle
- Delirium precautions
- Continue physical therapy, occupational therapy for fall 
safety
- Consider repeat TTE vs cardiology follow for recent 
___ TTE with aortic stenosis
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Tiotropium Bromide 1 CAP IH DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Donepezil 5 mg PO QHS 
4. Aspirin 325 mg PO DAILY 
5. Atorvastatin 40 mg PO QPM 
6. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
7. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 
8. Cetirizine 10 mg PO DAILY 
9. Senna 8.6 mg PO DAILY 

 
Discharge Medications:
1.  OLANZapine (Disintegrating Tablet) 2.5 mg PO Q7PM  
2.  Acetaminophen 650 mg PO TID  
3.  Atorvastatin 40 mg PO QPM  
4.  Cetirizine 10 mg PO DAILY  
5.  Senna 8.6 mg PO DAILY  
6.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID  
7.  Tiotropium Bromide 1 CAP IH DAILY  
8. HELD- Aspirin 325 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___. HELD- Donepezil 5 mg PO QHS  This medication was held. Do not 
restart Donepezil until your doctor tells you to restart this
10. HELD- Lisinopril 10 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until your doctor tells you to restart 
this

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Fall
Subarachnoid Hemorrhage 
Toxic-Metabolic Encephalopathy
Urinary Tract Infection
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ after a fall and hitting your head. 
You were found to have small bleed around your brain. The 
neurosurgeons evaluated you and held your aspirin. 

WHAT WAS DONE
=============
- You were treated for a urinary tract infection
- You were rehydrated with intravenous fluids
- You worked with physical therapy

WHAT TO DO NEXT
===============
- Restart your aspirin on ___
- Take all your medications as prescribed
- Follow up with your doctors as needed

Wishing you the best of health moving forward,
Your ___ team
 
Followup Instructions:
___